US07439257B2
3.1. 3-[4-(1-naphthalenyloxy]butyl]-1,3-oxazolidine-2,4-dione
A solution of 3.1 g (11.1 mmol) of 1-[(4-bromobutyl)oxy]naphthalene (Eur. J. Med. Chem. 1997, 32, 175-179) and 1.35 g (13.3 mmol) of 1,3-oxazolidine-2,4-dione (J. Med. Chem. 1991, 34, 1542-1543) in 30 ml of tetrahydrofuran is admixed dropwise with a solution of 2.55 g (22.2 mmol) of 1,1,3,3-tetramethylguanidine in 15 ml of tetrahydrofuran. The mixture is heated at reflux for 8 hours. 0.28 g (2.7 mmol) of 1,3-oxazolidine-2,4-dione and 0.32 g (2.7 mmol) of 1,1,3,3-tetramethylguanidine are added and the mixture is heated at reflux for 4 more hours. The reaction mixture is cooled using an ice bath, and 100 ml of ethyl acetate and then 50 ml of 1M aqueous hydrochloric acid are added. The system is decanted and the aqueous phase is extracted with 2×80 ml of ethyl acetate. The organic phases are subsequently washed with 80 ml of water and then with 80 ml of saturated aqueous sodium chloride solution. They are dried over sodium sulfate and then evaporated to dryness. The product is purified by chromatography on silica gel, eluting with an 80/20 mixture of cyclohexane and ethyl acetate, to give 2.0 g of product, which is used as it is in the following step.

reactant | 1-[(4-bromobutyl)oxy]naphthalene | 11.1 mmol, 3.1 g | BrCCCCOC1=CC=CC2=CC=CC=C12 | C14H15BrO
reactant | 1,3-oxazolidine-2,4-dione | 13.3 mmol, 1.35 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | 1,1,3,3-tetramethylguanidine | 22.2 mmol, 2.55 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | 1,3-oxazolidine-2,4-dione | 2.7 mmol, 0.28 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | 1,1,3,3-tetramethylguanidine | 2.7 mmol, 0.32 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | hydrochloric acid | 1M, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-[4-(1-naphthalenyloxy]butyl]-1,3-oxazolidine-2,4-dione | 2.0 g | C1(=CC=CC2=CC=CC=C12)OCCCCN1C(OCC1=O)=O | C17H17NO4
